US07271197B2
xi) (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-[2-(4-{2-[(3-nitrobenzyl)oxy]ethoxy}phenyl)ethyl]-1,3-oxazolidin-2-one
(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{2-[4-(2-hydroxyethoxy)phenyl]ethyl}-1,3-oxazolidin-2-one (1 g) in DMF (15 mL) was treated with sodium hydride (167 mg) under nitrogen and stirred for 15 min. To this was added 3-nitrobenzyl bromide (721 mg) and the reaction mixture was stirred for 20 h. The solution was then concentrated in vacuo and the residue was taken up in EtOAc, washed with water and brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography (Biotage, 40 g) eluting with CH2Cl2-MeOH (500:1) and then CH2Cl2-MeOH (250:1) to give the title compound (1.22 g). LCMS RT=3.57 min.

reactant | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{2-[4-(2-hydroxyethoxy)phenyl]ethyl}-1,3-oxazolidin-2-one | 1 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(C=C2)OCCO)C | C23H27NO6
reactant | sodium hydride | 167 mg | [H-].[Na+]
reactant | 3-nitrobenzyl bromide | 721 mg | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-[2-(4-{2-[(3-nitrobenzyl)oxy]ethoxy}phenyl)ethyl]-1,3-oxazolidin-2-one | 1.22 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(C=C2)OCCOCC2=CC(=CC=C2)[N+](=O)[O-])C | C30H32N2O8
